US04245097
Preparation of 1-[4-(16-bromohexadecylamino)benzoyl]pyrrolidine
A solution of 6.0 g. of 4-[N-carbobenzyloxy-N-(16-bromohexadecyl)amino]benzoyl chloride and 1.2 g. triethylamine in 100 ml. warm ether is treated with 1.1 g. of pyrrolidine. After 1 hour at reflux, the precipitate is filtered off and washed with warm ether. After evaporation in dryness, the intermediate is dissolved in 50 ml. 30% hydrobromic/acetic acid and warmed at 50° for 2 hours. The solvents are evaporated and the product is partitioned between methylene chloride and water. The layers are separated and the methylene chloride is evaporated. The residue is crystallized from acetone to yield colorless crystals.

reactant | 4-[N-carbobenzyloxy-N-(16-bromohexadecyl)amino]benzoyl chloride | C(=O)(OCC1=CC=CC=C1)N(CCCCCCCCCCCCCCCCBr)C1=CC=C(C(=O)Cl)C=C1 | C31H43BrClNO3
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | pyrrolidine | N1CCCC1 | C4H9N
solvent | ether | CCOCC | C4H10O
product | 1-[4-(16-bromohexadecylamino)benzoyl]pyrrolidine | BrCCCCCCCCCCCCCCCCNC1=CC=C(C(=O)N2CCCC2)C=C1 | C27H45BrN2O
